US07741341B2
1-[2-(4-Chloro-phenyl)-ethyl]-4-(3-hydroxy-azetidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide
1-[2-(4-Chloro-phenyl)-ethyl]-4-(3-hydroxy-azetidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide was prepared by a procedure according to example 22 starting from 150 mg (0.29 mmol) 1-[2-(4-Chloro-phenyl)-ethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid and 23.4 mg (0.32 mmol) 3-hydroxy-azetidine. The title compound was obtained as its formiate in form a white amorphous solid.

reactant | 1-[2-(4-Chloro-phenyl)-ethyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-benzoimidazole-4-carboxylic acid | 0.29 mmol, 150 mg | ClC1=CC=C(C=C1)CCN1C(=NC2=C1C=CC=C2C(=O)O)C(NC2CCN(CC2)C(C)C)=O | C25H29ClN4O3
reactant | 3-hydroxy-azetidine | 0.32 mmol, 23.4 mg | OC1CNC1 | C3H7NO
product | 1-[2-(4-Chloro-phenyl)-ethyl]-4-(3-hydroxy-azetidine-1-carbonyl)-1H-benzoimidazole-2-carboxylic acid (1-isopropyl-piperidin-4-yl)-amide | C(C)(C)N1CCC(CC1)NC(=O)C1=NC2=C(N1CCC1=CC=C(C=C1)Cl)C=CC=C2C(=O)N2CC(C2)O | C28H34ClN5O3
